US06329389B1
3-[2-(N,N-Dimethylamino)ethyl]-1,2,3,4-tetrahydroquinoline
Borane-THF complex (1M; 15 ml) was added to N,N-dimethyl-2-oxo-1,2,3,4-tetrahydro-3-quinolineacetoamide (590 mg), which was heated under reflux for 3.5 hours. 6N hydrochloric acid (10 ml) was added to the reaction mixture, which was heated under reflux overnight. 6N sodium hydroxide was added to the reaction mixture to adjust pH to 7 and extracted with ethyl acetate. The organic layer was washed with a saturated aqueous sodium bicarbonate solution and a saturated aqueous sodium chloride solution, then dried and concentrated. The residue was purified by alumina column chromatography (eluent: hexane/ethyl acetate=1/1) to obtain the entitled compound (390 mg) as an oily substance.

reactant | N,N-dimethyl-2-oxo-1,2,3,4-tetrahydro-3-quinolineacetoamide | 590 mg | CN(C(CC1C(NC2=CC=CC=C2C1)=O)=O)C | C13H16N2O2
reactant | sodium hydroxide | 6N | [OH-].[Na+]
solvent | hydrochloric acid | 6N, 10 ml | Cl | ClH
product | 3-[2-(N,N-Dimethylamino)ethyl]-1,2,3,4-tetrahydroquinoline | 390 mg | CN(C)CCC1CNC2=CC=CC=C2C1 | C13H20N2
